US08871948B2
To a solution containing 2-cyclohexyl-1-(methylsulfonyl)-5-nitro-1H-indole (5.8 g; 18 mmol) in THF (50 ml), tetrabutylammonium fluoride (1M solution in THF; 18 ml; 18 mmol) was added dropwise. The reaction mixture was refluxed for 18 hours, then cooled to room temperature. Water (50 ml) and EtOAc (50 ml) were added, the biphasic solution was transferred into a separating funnel, the organic layer separated and dried over Na2SO4, and the solvent was removed by evaporation under reduced pressure. The residue was purified by flash chromatography on silica gel (n-hexane/EtOAc, n-hexane 100→480%) to give 2-cyclohexyl-5-nitro-1H-indole (3.2 g), which was used without any further purification.

reactant | 2-cyclohexyl-1-(methylsulfonyl)-5-nitro-1H-indole | 18 mmol, 5.8 g | C1(CCCCC1)C=1N(C2=CC=C(C=C2C1)[N+](=O)[O-])S(=O)(=O)C | C15H18N2O4S
reactant | tetrabutylammonium fluoride | 18 mmol, 1M, 18 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Water | 50 ml | O | H2O
reactant | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-cyclohexyl-5-nitro-1H-indole | 3.2 g | C1(CCCCC1)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C14H16N2O2
